US07205314B2
3-{3-[2-(2-Methoxyethoxy)ethoxy]phenyl}acrylic acid
To a solution of 3-[2-(2-methoxyethoxy)ethoxy]benzaldehyde (9.18 g, 40.9 mmol) in pyridine (70 mL) under nitrogen was added malonic acid (8.69 g, 81.9 mmol) followed by piperidine (4.13 mL, 40.9 mmol). The reaction solution was stirred for 3 h at 85° C. and left stirring over night at room temperature. The reaction solution was concentrated to an oil and left on high vacuum over night to remove the remaining pyridine. To the oil was added ice (120 g) and under vigorous stirring, concentrated hydrochloric acid (13 mL) was added. The mixture was extracted with methylene chloride (3×65 mL) and the combined organic layer was washed with water (60 mL) and brine (60 mL), dried over sodium sulphate, filtered and concentrated in vacuo. The resulting oil was dried in high vacuum to give 10.8 g (99% yield) of the title compound. 1HNMR (300 MHz, DMSO-d6) δ 12.28 (br s, 1H), 7.56 (d, J=16 Hz, 1H), 7.28 (m, 3H), 6.99 (dd, J=8 Hz, J=2 Hz, 1H), 6.56 (d, J=16 Hz, 1H), 4.14 (t, J=5 Hz, 2H), 3.75 (t, J=5 Hz, 2H), 3.60 (t, J=5 Hz, 2H), 3.36 (t, J=5 Hz, 2H), 3.25 (s, 3H).

reactant | 3-[2-(2-methoxyethoxy)ethoxy]benzaldehyde | 40.9 mmol, 9.18 g | COCCOCCOC=1C=C(C=O)C=CC1 | C12H16O4
reactant | malonic acid | 81.9 mmol, 8.69 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 40.9 mmol, 4.13 mL | N1CCCCC1 | C5H11N
solvent | pyridine | 70 mL | N1=CC=CC=C1 | C5H5N
product | 3-{3-[2-(2-Methoxyethoxy)ethoxy]phenyl}acrylic acid | 10.8 g, 99% yield | COCCOCCOC=1C=C(C=CC1)C=CC(=O)O | C14H18O5
